US07161005B2
2-({4′,4″-Bis[(2-hydroxy-ethyl)methyl-amino]-[2,2′;6′,2″]terpyridin-4-yl}-methylamino)-ethanol (Referred to as L25 Below)
This compound is prepared in a manner analogous to that described in Example 7 with 4′-chloro-[2,2′;6′,2″]terpyridine, but instead the trichloro-substituted terpyridine L22 from Example 28, and 2-methylaminoethanol as amine component are used. 2-({4′,4″-Bis[(2-hydroxy-ethyl)-methyl-amino]-[2,2′;6′,2′]terpyridin-4-yl}methyl-amino)-ethanol, white solid. 13 C-NMR (90 MHz, DMSO-d6): 156.4 (quart.); 155.7 (quart.); 155.3 (quart.); 154.4 (quart.); 149.2 (tert.); 106.7 (tert.); 103.4 (tert.); 103.1 (tert.); 58.4 (2 signals, sec.); 58.2 (sec.); 53.6 (sec.); 53.5 (2 signals, sec.); 38.6 (prim.); 38.3 (2 signals, prim.).

reactant | 4′-chloro-[2,2′;6′,2″]terpyridine | ClC1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C15H10ClN3
reactant | 2-methylaminoethanol | CNCCO | C3H9NO
product | 2-({4′,4″-Bis[(2-hydroxy-ethyl)methyl-amino]-[2,2′;6′,2″]terpyridin-4-yl}-methylamino)-ethanol | OCCN(C1=CC(=NC(=C1)C1=NC=CC(=C1)N(C)CCO)C1=NC=CC(=C1)N(CCO)C)C | C24H32N6O3
